US04000273
3,17β-Diacetoxyestr-3,5-diene
The compound 19-nortestosterone, 400 g, is refluxed under nitrogen in a mixture of 1500 ml of acetic anhydride and 1500 ml of acetyl chloride for a period of 3 hours. The volatile solvents are distilled at atmospheric pressure and the final traces of solvent removed under reduced pressure. The solid residue which remains is triturated with ice water, filtered, washed with cold aqueous sodium bicarbonate solution, rinsed with water and dried. Two recrystallizations of this residue from acetone yield 370 g of 3,17β-diacetoxyestr-3,5-diene which melts at 165°-71° C.

reactant | 19-nortestosterone | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2O)CCC4=CC(=O)CC[C@H]34 | C18H26O2
solvent | acetic anhydride | 1500 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetyl chloride | 1500 ml | C(C)(=O)Cl | C2H3ClO
product | 3,17β-Diacetoxyestr-3,5-diene | C(C)(=O)OC1=CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@H]2CC1)OC(C)=O | C22H30O4
